US08471005B2
Morpholin-4-yl-(3-nitro-phenyl)-methanone (2.74 g, 11.6 mmol) was dissolved in Ethanol (30.0 mL, 514 mmol) and the solution was carefully added to a Parr vessel containing 10% Palladium on Carbon (0.750 g, 56.2 mmol) under nitrogen. The mixture was then placed on a Parr hydrogenation apparatus and was allowed to shake at 55 psi until uptake of hydrogen ceased. The catalyst was then filtered to afford (3-Amino-phenyl)-morpholin-4-yl-methanone without further purification. (M+H)=207.6.

reactant | Morpholin-4-yl-(3-nitro-phenyl)-methanone | 11.6 mmol, 2.74 g | N1(CCOCC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H12N2O4
reactant | Ethanol | 514 mmol, 30.0 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on Carbon | 56.2 mmol, 0.750 g | [Pd] | Pd
product | (3-Amino-phenyl)-morpholin-4-yl-methanone | NC=1C=C(C=CC1)C(=O)N1CCOCC1 | C11H14N2O2
